US08648115B2
(E)-4-Oxohexadec-2-enoic acid (FIG. 1, 3).
A solution of (E)-4-oxohexadec-2-enal (400 mg, 1.58 mmol) and 2-methyl-2-butene (1.69 ml, 15.8 mmol) in t-BuOH (20 ml) was treated with NaH2PO4 (2.00 g, 16.7 mmol) and NaClO2 (181 mg, purity 80%, 1.89 mmol), both dissolved in H2O (10 ml), and the resulting mixture was stirred for 2 h at RT. Most of the solvent was removed under reduced pressure, and EtOAc (50 ml) and a saturated NaCl solution (10 ml) were added to the residue. The aqueous phase was acidified to a pH of 1 by dropwise addition of 1 N HCl. The organic phase was then separated off and the aqueous phase was extracted with EtOAC (2×50 ml). The combined organic phases were dried over NaSO4 and concentrated under reduced pressure to give the product as a whitish-yellow solid (350 mg, 1.31 mmol, 83%), melting point 98±0.5° C. 1H NMR (400 MHz, CD3CD2OD) δ 1H ppm: 0.87 (t, 3H, J=7.0 Hz, H-16), 1.08-1.34 (m, 18H), 1.56-1.63 (m, 2H), 2.68 (t, 2H, J=7.0 Hz, H-5), 6.65 (d, 1H, J=16.2 Hz, H-2), 7.01 (d, 1H, J=16.2 Hz, H-3); 13C NMR (100.5 MHz, CD3CD2OD) δ 13C ppm: 15.5 (C-16), 24.6, 25.7, 26.2, 31.0, 31.3, 31.4, 31.5, 31.6, 31.6, 33.9, 43.0 (C-5), 133.7 (C-2), 141.3 (C-3), 169.4 (C-1), 202.8 (C-4); (−)-ESI-CID-MS: m/z 267 [M−H]−, 535 [2M−H]−; (−)-ESI-CID-MS: m/z 269 [M−H]; ESI-FT-ICR-MS: m/z 267.19633 (calculated for C16H27O3−, m/z 267.19633).

reactant | (E)-4-oxohexadec-2-enal | 1.58 mmol, 400 mg | O=C(/C=C/C=O)CCCCCCCCCCCC | C16H28O2
reactant | 2-methyl-2-butene | 15.8 mmol, 1.69 ml | CC(C)=CC | C5H10
reactant | NaClO2 | 1.89 mmol, 181 mg | [O-]Cl=O.[Na+]
solvent | t-BuOH | 20 ml | CC(C)(C)O | C4H10O
solvent | H2O | 10 ml | O | H2O
product | (E)-4-Oxohexadec-2-enoic acid | 1.31 mmol, 350 mg, 83% | O=C(/C=C/C(=O)O)CCCCCCCCCCCC | C16H28O3
